US05498724
Example 24. N-(3-Aminopropyl)-N'-tert-butoxycarbonyl guanidine
A mixture of tert-butoxycarbonyl-1-(3,5-dimethylpyrazolyl)-formamidine (0.38 g, 1.5 mmol) and 1,3-diaminopropane (0.56 g, 7.5 mmol) was stirred at room temperature for 17 h. The crystalline product was collected by filtration, washed with toluene (2×0.7) mL), and vacuum dried (35° C., 1.5h) to afford 0.15 g (47%) of white crystals of N-(3-aminopropyl)-N'-tert-butoxycarbonyl guanidine (IIIg).

reactant | tert-butoxycarbonyl-1-(3,5-dimethylpyrazolyl)-formamidine | 1.5 mmol, 0.38 g | C(C)(C)(C)OC(=O)N=C(N)C=1C(=NNC1C)C | C11H18N4O2
reactant | 1,3-diaminopropane | 7.5 mmol, 0.56 g | NCCCN | C3H10N2
product | N-(3-Aminopropyl)-N'-tert-butoxycarbonyl guanidine | 0.15 g, 47% | NCCCNC(=N)NC(=O)OC(C)(C)C | C9H20N4O2
